US06204279B1
(B) N,N′-Bis-Boc-(2R)-2,5-Diamino-N-[(1R)-1-[(RS)-(2-benzothiazolyl)hydroxymethyl]-3-phenylpropyl]valeramide
(1R)-1-[(RS)-(2-Benzothiazolyl)hydroxymethyl]-3-phenylpropylamine (72 mg) was coupled to N,N′-bis-Boc-D-ornithine to afford the title compound (11 mg) as a glassy solid: 1H NMR (400 MHz, CDCl3, 3:2 mixture of diastereomers) δ1.41 (s, 9H), 1.44 (s, 9H), 1.60 (m, 2H ), 1.19 (m, 4H), 2.20 (m, 2H), 2.72-2.91 (m, 2H), 4.11 (m, 1H), 4.31 (m, 0.4H), 4.41 (m, 0.6H), 5.06 (m, 0.6H), 5.19 (d, J=1.1 Hz, 0.4), 7.20 (m, 3H), 7.26 (m, 2H), 7.40 (t, J=8.5 Hz, 1H), 7.49 (t, J=9.3 Hz, 1H), 7.87 (d, J=8.3 Hz, 1H ), and 7.98 (d, J=9.4 Hz, 1H).

reactant | (1R)-1-[(RS)-(2-Benzothiazolyl)hydroxymethyl]-3-phenylpropylamine | 72 mg | S1C(=NC2=C1C=CC=C2)C([C@@H](CCC2=CC=CC=C2)N)O | C17H18N2OS
reactant | N,N′-bis-Boc-D-ornithine | C(=O)(OC(C)(C)C)N[C@H](CCCNC(=O)OC(C)(C)C)C(=O)O | C15H28N2O6
product | N,N′-Bis-Boc-(2R)-2,5-Diamino-N-[(1R)-1-[(RS)-(2-benzothiazolyl)hydroxymethyl]-3-phenylpropyl]valeramide | 11 mg | C(=O)(OC(C)(C)C)N(C([C@@H](CCCNC(=O)OC(C)(C)C)N)=O)[C@H](CCC1=CC=CC=C1)C(O)C=1SC2=C(N1)C=CC=C2 | C32H44N4O6S
